US08334287B2
6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-ol
The title compound, light yellow solid, MS: m/e=310.1, 312.0 (M+H), was prepared in accordance with the general method of example 1a from 2-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-6-fluoro-pyridine and KOH in tert-butanol.

reactant | 2-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-6-fluoro-pyridine | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=NC(=CC=C1)F)C | C17H11ClFN3
reactant | KOH | [OH-].[K+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-ol | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC=CC(=N1)O)C | C17H12ClN3O
